US07700628B2
A. Methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoate
The methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-fluorobenzoate (7.99 mmol, 22.6 mmol) was diluted with pyrrolidine (18 mL, 215.6 mmol). The resulting mixture was heated to 80° C. After 3 hours, the reaction was cooled to room temperature and quenched with water (50 mL). The mixture was extracted with dichloromethane (200 mL). The organic layer was washed with saturated aqueous citric acid (3×50 mL), dried over sodium sulfate, filtered, and concentrated to a colorless oil (9.14 g, 22.6 mmol, 100%).

reactant | methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-fluorobenzoate | 7.99 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)F | C18H24FNO5
reactant | pyrrolidine | 215.6 mmol, 18 mL | N1CCCC1 | C4H9N
product | Methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoate | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)N1CCCC1 | C22H32N2O5
